### ISSUE TITLE
How to get hold of subterms deep inside a Prop?

### ISSUE THREAD

**Issue by htzh** [leanprover/tutorial#104]
I would like to prove the following:
```
import data.set
namespace function
section
open set
variables {A B : Type}
definition bijective (f : A → B) := injective f ∧ surjective f
lemma injective_eq_inj_on_univ (f : A → B) : injective f = inj_on f univ :=
  begin
    esimp [injective, inj_on, univ, mem],
  end
end
end function
```
After esimp the goal is now:
```
⊢ (∀ (a₁ a₂ : A), f a₁ = f a₂ → a₁ = a₂) = ∀ ⦃x1 x2 : A⦄,
    true → true → f x1 = f x2 → x1 = x2
```
I can use true_imp
```
theorem true_imp (a : Prop) : (true → a) ↔ a
```
Is there a way to do it without manually breaking down the structure (with propext, iff.intro, assume ......)?

**Comment by htzh** [comment]
This works:
```
lemma injective_eq_inj_on_univ (f : A → B) : injective f = inj_on f univ :=
  begin
    esimp [injective, inj_on, univ, mem],
    apply propext,
    apply iff.intro,
      intro Pl a1 a2,
        rewrite *(propext !true_imp),
        exact Pl a1 a2,
      intro Pr a1 a2,
        assert Ptrue : true, apply true.intro,
        exact Pr Ptrue Ptrue
  end
end
```
I am wondering if there is a better way.

**Comment by leodemoura** [comment]
Here is a smaller one:
```lean
lemma injective_eq_inj_on_univ₃ (f : A → B) : injective f = inj_on f univ :=
  begin
    esimp [injective, inj_on, univ, mem],
    apply propext,
    repeat (apply forall_congr; intros),
    rewrite *(propext !true_imp)
  end
```

BTW, I've just implemented an extension that uses `propext` automatically in the `rewrite` tactic. That is, it will allow us to write `rewrite true_imp` instead of `rewrite (propext !true_imp)`. I will push as soon as I finish testing it.

This kind of problem will be perfect for the bottom-up simplifier that will have in Lean. This simplifier automatically applies `forall_congr` and `funext` to go inside of binders.

**Comment by leodemoura** [comment]
I pushed the new feature.
Here is the new version for the lemma above
https://github.com/leanprover/lean/blob/master/tests/lean/run/tut_104.lean#L41-L48

**Comment by htzh** [comment]
Great! Good to learn ```repeat (apply forall_congr; intros)``` too. Thanks!
